US07989444B2
Preparation 8: 1,1-Dimethylethyl 7-hydroxy-8-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
Nitric acid (70%, 3.44 ml) was added dropwise over 40 min with vigorous stirring to 1,1-dimethylethyl 7-hydroxy-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylate (14.2 g) in DCM with cooling in an ice bath. After additional 5 min silica gel (15 g) and sodium bicarbonate powder (5 g) were added and stirring was continued for 1.5 h. The mixture was filtered through a layer (1 cm) of silica gel and the solids washed with EtOAc. The resulting solution was concentrated and submitted to column chromatography to provide the title compound as a yellow solid (8.54 g).

reactant | Nitric acid | 3.44 ml | [N+](=O)(O)[O-] | HNO3
reactant | 1,1-dimethylethyl 7-hydroxy-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylate | 14.2 g | OC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C15H21NO3
reactant | sodium bicarbonate | 5 g | C([O-])(O)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl 7-hydroxy-8-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 8.54 g | OC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1[N+](=O)[O-] | C15H20N2O5
